US06506779B1
Step 1: 5-Methylsulfonyl-2-[5-(4-bromophenyl)-3-trifluoromethyl-1H-pyrazol-1-yl]pyridine
4,4,4-Trifluoro-1-(4-bromophenyl)1,3-butanedione (600 mg) (prepared according to the method of Thomas D. Penning, et al.; J. Med. Chem., 1997, 40, 1347-1365.) and 2-hydrazino-5-(methylsulfonyl)pyridine hydrochloride (420 mg) were mixed in ethanol (40 mL), and the resulting solution was refluxed for 3 days. Upon cooling, white precipitates came out. The white precipitates were collected by filtration and purified by flash chromatography using 70:30 of methylene chloride and hexane to give the title compound (450 mg).

reactant | 4,4,4-Trifluoro-1-(4-bromophenyl)1,3-butanedione | 600 mg | FC(C(CC(=O)C1=CC=C(C=C1)Br)=O)(F)F | C10H6BrF3O2
reactant | 2-hydrazino-5-(methylsulfonyl)pyridine hydrochloride | 420 mg | Cl.N(N)C1=NC=C(C=C1)S(=O)(=O)C
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 5-Methylsulfonyl-2-[5-(4-bromophenyl)-3-trifluoromethyl-1H-pyrazol-1-yl]pyridine | 450 mg | CS(=O)(=O)C=1C=CC(=NC1)N1N=C(C=C1C1=CC=C(C=C1)Br)C(F)(F)F | C16H11BrF3N3O2S
